US07888386B2
3-Benzoyl-2-oxopyrrolidine-1-carboxylic Acid t-Butyl Ester
To a stirred solution of 1-(t-butoxycarbonyl)-2-pyrrolidinone (11.9 g, 64.3 mmol) in dry THF (190 mL) at −78° C. was added a solution of LiHMDS (1.0M in toluene, 135 mL, 135 mmol). After stirring at −78° C. for 2 hours, benzoyl chloride (7.5 mL, 64.3 mmol) was added dropwise over 5 minutes while keeping the temperature below −50° C. The mixture was stirred at −78° C. for 4 hours, and the reaction was then quenched with a saturated aqueous NH4Cl solution (200 mL). The mixture was diluted with EtOAc (300 mL) and the organic layer was washed with saturated NaHCO3 (200 mL×2) and saturated aqueous NaCl (200 mL). The organic layer was dried over MgSO4, filtered and concentrated, and the crude product was purified by flash column chromatography (20-60% EtOAc in hexanes) to afford the title compound (14.5 g) as a yellow oil.

reactant | 1-(t-butoxycarbonyl)-2-pyrrolidinone | 64.3 mmol, 11.9 g | C(C)(C)(C)OC(=O)N1C(CCC1)=O | C9H15NO3
reactant | LiHMDS | 135 mmol, 1.0M, 135 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | benzoyl chloride | 64.3 mmol, 7.5 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | THF | 190 mL | C1CCOC1 | C4H8O
product | 3-Benzoyl-2-oxopyrrolidine-1-carboxylic Acid t-Butyl Ester | 14.5 g | C(C)(C)(C)OC(=O)N1C(C(CC1)C(C1=CC=CC=C1)=O)=O | C16H19NO4
